US07915271B2
Step C Methyl 2-chloro-3′-iodo-4′-methoxybiphenyl-4-carboxylate
To a mixture of silver sulfate (0.97 g, 3.11 mmol) and iodine (0.79 g, 3.11 mmol) in MeOH (20 ml) at room temperature, a solution of methyl 2-chloro-4′-methoxybiphenyl-4-carboxylate (0.86 g, 3.11 mmol) in 1:1 mixture of MeOH/EtOAc (10 ml) was added. The mixture was stirred at room temperature for 6 h until color of the reaction turned to pale. The solid was filtered off and the filtrate was concentrated. The title compound was obtained after flash column using EtOAc:hexane/5:95 as the eluant. 1H NMR (CDCl3, 500 MHz): δ 8.15 (d, J=1.5 Hz, 1H), 7.97 (dd, J=8, 2 Hz, 1H), 7.89 (d, J=2 Hz, 1H), 7.46 (dd, J=8.5, 2 Hz, 1H), 7.40 (d, J=8 Hz, 1H), 6.91 (d, J=8 Hz, 1H), 3.98 (s, 6H).

reactant | iodine | 3.11 mmol, 0.79 g | II | I2
reactant | methyl 2-chloro-4′-methoxybiphenyl-4-carboxylate | 3.11 mmol, 0.86 g | ClC1=C(C=CC(=C1)C(=O)OC)C1=CC=C(C=C1)OC | C15H13ClO3
reactant | MeOH EtOAc | 10 ml | CO.CCOC(=O)C
solvent | MeOH | 20 ml | CO | CH4O
catalyst | silver sulfate | 3.11 mmol, 0.97 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | Methyl 2-chloro-3′-iodo-4′-methoxybiphenyl-4-carboxylate | ClC1=C(C=CC(=C1)C(=O)OC)C1=CC(=C(C=C1)OC)I | C15H12ClIO3
